US07582638B2
1-{1-[1-(2,6-Difluoro-benzoyl)-piperidin-4-yloxy]-isoquinolin-4-yl}-3-[5-(2-fluoro-1-fluoromethyl-1-methyl-ethyl)-2-p-tolyl-2H-pyrazol-3-yl]-urea
Stir 1-[5-(2-fluoro-1-fluoromethyl-1-methyl-ethyl)-2-p-tolyl-2H-pyrazol-3-yl]-3-[1-(piperidin-4-yloxy)-isoquinolin-4-yl]-urea hydrochloride (Preparation 37, 0.6 mmol, 0.3 g), 2,6-difluorobenzoyl chloride (0.6 mmol, 0.07 mL) and triethylamine (1.7 mmol, 0.2 mL) in 5 mL of dichloromethane at room temperature overnight. Add some water and extract in dichloromethane. Wash organic layer with saturated aq. sodium chloride. Dry over anhydrous sodium sulfate and concentrate under reduced pressure. Subject residue to silica gel chromatography eluting with hexanes/ethyl acetate as eluent (30%-70%). LCMS ES+(m/z) 675 [M+H].

reactant | 1-[5-(2-fluoro-1-fluoromethyl-1-methyl-ethyl)-2-p-tolyl-2H-pyrazol-3-yl]-3-[1-(piperidin-4-yloxy)-isoquinolin-4-yl]-urea hydrochloride | 0.6 mmol, 0.3 g | Cl.FCC(C)(CF)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(=O)NC1=CN=C(C2=CC=CC=C12)OC1CCNCC1
reactant | 2,6-difluorobenzoyl chloride | 0.6 mmol, 0.07 mL | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | triethylamine | 1.7 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-{1-[1-(2,6-Difluoro-benzoyl)-piperidin-4-yloxy]-isoquinolin-4-yl}-3-[5-(2-fluoro-1-fluoromethyl-1-methyl-ethyl)-2-p-tolyl-2H-pyrazol-3-yl]-urea | FC1=C(C(=O)N2CCC(CC2)OC2=NC=C(C3=CC=CC=C23)NC(=O)NC=2N(N=C(C2)C(CF)(C)CF)C2=CC=C(C=C2)C)C(=CC=C1)F | C36H34F4N6O3
